US04960766
To a solution of trifluoroacetic acid salt of 7β-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (syn isomer, 2.2 g) in methanol (11 ml) was added conc. hydrochloric acid (0.78 ml) at room temperature, and the mixture was stirred at the same temperature for 2 hours. The reaction mixture was added to diethyl ether (300 ml), and the precipitates were collected by filtration. The precipitates were dissolved in water (20 ml) and the solution was adjusted to pH 5 with saturated aqueous solution of sodium bicarbonate. The solution was subjected to column chromatography on macroporous non-ionic adsorption resin "Diaion HP-20" and eluted with 15% aqueous solution of isopropyl alcohol The fractions containing the object compound were collected and evaporated in vacuo to remove isopropyl alcohol. The solution was lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (syn isomer, 0.78 g).

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7β-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | 2.2 g | C(=O)NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)[O-])C1=O)=NOC | C19H19N7O6S2
reactant | hydrochloric acid | 0.78 ml | Cl | ClH
reactant | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | methanol | 11 ml | CO | CH4O
product | 7β-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | 0.78 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)[O-])C1=O)=NOC | C18H19N7O5S2
